US08633319B2
Preparation of 1,6-naphthyridin-5,7(6H,8H)-dione
Tetrahydrofuran (9 vol) is charged to the reactor followed by the starting material ester (1 eq) and a rinse of tetrahydrofuran (1 vol). The mixture is cooled to −2.5±7.5° C. under nitrogen atmosphere then treated with triethylamine (1.35 eq) and later ethyl chloroformate (1.25 eq). The reaction is stirred for 1 h at −2.5±7.5° C. then sampled. On receipt of a successful result the reaction is carefully treated with aq. ammonia, stirred, then water is added. Dilute HCl is added at <5° C. to adjust the pH to 6.5-7.5. The mixture is distilled under vacuum at <40° C. to 12-14 volumes and cooled to 7.5±2.5° C. The suspension is stirred ˜1 h at 7.5±2.5° C. then filtered. The solid is washed with water (1 vol) then offloaded and dried under vacuum (NLT 650 mm of Hg) at 52.5±2.5° C. for 12.0 h.

reactant | triethylamine | 1.35 eq | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.25 eq | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | N | H3N
reactant | HCl | Cl | ClH
reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,6-naphthyridin-5,7(6H,8H)-dione | N1=CC=CC=2C(NC(CC12)=O)=O | C8H6N2O2
